US04039676
To the solution of 10 g of 1,4-benzodioxan-2-yl-acetaldehyde and 12.7 g of 4-hydroxy-4-phenylpiperidine in 300 ml of methanol is added 8 ml of 4.5 N ethanolic hydrogen chloride at which conditions the 2-[2-(4-hydroxy-4-phenylpiperidino)-vinyl]-1,4-benzodioxan is formed in situ. After standing for one hour, at room temperature the solution of 2.4 g of sodium cyanoborohydride in 30 ml of methanol is added dropwise while stirring. After one hour the solution is made strongly basic with aqueous sodium hydroxide, concentrated to a small volume and diluted with water. The mixture is extracted with ethyl acetate, the extract dried and evaporated. The residue is treated with ethanolic hydrogen chloride and the precipitate recrystallized from ethanoldiethyl ether, to yield the 2-[2-(4-hydroxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan hydrochloride melting at 203°.

reactant | 1,4-benzodioxan-2-yl-acetaldehyde | 10 g | O1C(COC2=C1C=CC=C2)CC=O | C10H10O3
reactant | 4-hydroxy-4-phenylpiperidine | 12.7 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | hydrogen chloride | 4.5 N, 8 ml | Cl | ClH
reactant | 2-[2-(4-hydroxy-4-phenylpiperidino)-vinyl]-1,4-benzodioxan | OC1(CCN(CC1)C=CC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2 | C21H23NO3
reactant | sodium cyanoborohydride | 2.4 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 2-[2-(4-hydroxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan hydrochloride | Cl.OC1(CCN(CC1)CCC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2 | InChI=1S/C21H25NO3.ClH/c23-21(17-6-2-1-3-7-17)11-14-22(15-12-21)13-10-18-16-24-19-8-4-5-9-20(19)25-18;/h1-9,18,23H,10-16H2;1H
